US07915404B2
{2-[4-[1,3]Dioxolan-2-ylmethyl-5-(4-fluoro-phenyl)-1-isopropyl-1H-pyrazol-3-yl]-ethyl}-carbamic acid benzyl ester
A solution of [3-(isopropyl-hydrazono)-propyl]-carbamic acid benzyl ester (60.0 mg, 0.228 mmol) and 2-[3-(4-fluoro-phenyl)-2-nitro-allyl]-[1,3]dioxolane (54.0 mg, 0.213 mmol) in THF (2 mL) was stirred at rt for 3 days. The mixture was treated with additional [3-(isopropyl-hydrazono)-propyl]-carbamic acid benzyl ester (1.4 equiv.) and was stirred at 60° C. for 18 h. Additional [3-(isopropyl-hydrazono)-propyl]-carbamic acid benzyl ester (2.1 equiv.) was added, and the mixture was stirred at 60° C. for 18 h. The mixture was concentrated to oil and the residue was purified by FCC to give the title compound.

reactant | [3-(isopropyl-hydrazono)-propyl]-carbamic acid benzyl ester | 0.228 mmol, 60.0 mg | C(C1=CC=CC=C1)OC(NCCC=NNC(C)C)=O | C14H21N3O2
reactant | 2-[3-(4-fluoro-phenyl)-2-nitro-allyl]-[1,3]dioxolane | 0.213 mmol, 54.0 mg | FC1=CC=C(C=C1)C=C(CC1OCCO1)[N+](=O)[O-] | C12H12FNO4
reactant | [3-(isopropyl-hydrazono)-propyl]-carbamic acid benzyl ester | 1.4 equiv. | C(C1=CC=CC=C1)OC(NCCC=NNC(C)C)=O | C14H21N3O2
reactant | [3-(isopropyl-hydrazono)-propyl]-carbamic acid benzyl ester | 2.1 equiv. | C(C1=CC=CC=C1)OC(NCCC=NNC(C)C)=O | C14H21N3O2
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | {2-[4-[1,3]Dioxolan-2-ylmethyl-5-(4-fluoro-phenyl)-1-isopropyl-1H-pyrazol-3-yl]-ethyl}-carbamic acid benzyl ester | C(C1=CC=CC=C1)OC(NCCC1=NN(C(=C1CC1OCCO1)C1=CC=C(C=C1)F)C(C)C)=O | C26H30FN3O4
